US05266700
d) 2-Trimethylstannyl-3-methoxyquinoline
3.00 g (130 mmol) of sodium are introduced in a sealed Schlenck-type apparatus under argon inert gas into 3 ml of absolute DME. The sodium is cut into very small pieces and, before being added to the reaction solution, is washed with absolute DME to remove any adhering paraffin. After the sodium has been suspended in DME, the reaction solution remains clear, and only a slight evolution of gas can be observed. The reaction mixture is cooled to -10° C. using an ice/common salt mixture and 1.16 g (5.84 mmol) of trimethyltin chloride are then added in solid form. After the addition, the reaction solution still remains clear. After a reaction time of 1 h, the reaction solution has a milky cloudy color. After a reaction time of 3 hours, the reaction solution becomes milky, gray and cloudy. Shortly afterwards, the reaction solution turns deep green. The solution is stirred for a total of 4 hours. The last hour of the reaction is carried out without ice cooling. In order to remove excess sodium, the reaction solution is filtered under argon inert gas through a D-2 Schlenck-type frit. 0.70 g (2.92 mmol) of 2-bromo-3-methoxyquinoline dissolved in 3 ml of absolute DME is added dropwise to the filtered cloudy and green reaction solution. Upon dropwise addition of the educt, the reaction solution spontaneously turns blood red. During the addition of the educt, the reaction solution is cooled with ice. After a short time, the reaction solution has a dark brown color, which, after a reaction time of 1.5 hours, clears to light brown. After a reaction time of 4 hours with ice cooling, the reaction mixture is filtered through a D-4 frit to remove the solids formed. This gives a light yellow reaction solution. A gray solid remains in the frit. The solvent is washed with more [lacuna], the runoff being dark brown. After evaporation of the solvent, a dark brown oil is obtained. A thin-layer chromatogram obtained in chloroform shows that the desired product is obtained. Slight traces of the hydrolysis product 3-methoxyquinoline can be detected by 1H-NMR spectroscopy.

reactant | sodium | 130 mmol, 3.00 g | [Na] | Na
reactant | trimethyltin chloride | 5.84 mmol, 1.16 g | C[Sn](C)(C)Cl
reactant | 2-bromo-3-methoxyquinoline | 2.92 mmol, 0.70 g | BrC1=NC2=CC=CC=C2C=C1OC | C10H8BrNO
solvent | DME | 3 ml | COCCOC | C4H10O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | DME | 3 ml | COCCOC | C4H10O2
product | 2-Trimethylstannyl-3-methoxyquinoline | C[Sn](C1=NC2=CC=CC=C2C=C1OC)(C)C | InChI=1S/C10H8NO.3CH3.Sn/c1-12-9-6-8-4-2-3-5-10(8)11-7-9;;;;/h2-6H,1H3;3*1H3;
